US07935688B2
(2) Synthesis of Sodium [4′-(1-ethyl-1-{4-[(E)-2-(1-hydroxy-cyclopentyl)-vinyl]-3-methyl-phenyl}-propyl)-3-fluoro-2′-methyl-biphenyl-4-yl]-acetate
Methanol (1.3 mL), tetrahydrofuran (1.3 mL) and a 1 M sodium hydroxide aqueous solution (0.129 mL, 0.129 mmol) were added to [4′-(1-ethyl-1-{4-[(E)-2-(1-hydroxy-cyclopentyl)-vinyl]-3-methyl-phenyl}-propyl)-3-fluoro-2′-methyl-biphenyl-4-yl]-acetic acid methyl ester (Example 84-(1); 22.8 mg, 0.043 mmol), and the mixture was stirred at room temperature for 25 hours. The reaction solution was poured into a saturated aqueous ammonium chloride solution, and then the aqueous layer was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was crudely purified by preparative TLC (chloroform/methanol=10/1). The crude purified product was diluted with methanol. After addition of sodium methoxide, the mixture was dried under reduced pressure. The residue was purified by preparative TLC (developer obtained by saturating chloroform/methanol=10/1 with water). The purified product was diluted with methanol. After addition of sodium methoxide, the mixture was dried under reduced pressure to give the title compound (12.6 mg, 57%).

reactant | Methanol | 1.3 mL | CO | CH4O
reactant | sodium hydroxide | 0.129 mmol, 1 M, 0.129 mL | [OH-].[Na+]
reactant | [4′-(1-ethyl-1-{4-[(E)-2-(1-hydroxy-cyclopentyl)-vinyl]-3-methyl-phenyl}-propyl)-3-fluoro-2′-methyl-biphenyl-4-yl]-acetic acid methyl ester | 0.043 mmol, 22.8 mg | COC(CC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)\C=C\C1(CCCC1)O)C)CC)C)F)=O | C35H41FO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.3 mL | O1CCCC1 | C4H8O
product | Sodium [4′-(1-ethyl-1-{4-[(E)-2-(1-hydroxy-cyclopentyl)-vinyl]-3-methyl-phenyl}-propyl)-3-fluoro-2′-methyl-biphenyl-4-yl]-acetate | 12.6 mg, 57% | C(C)C(CC)(C1=CC(=C(C=C1)\C=C\C1(CCCC1)O)C)C1=CC(=C(C=C1)C1=CC(=C(C=C1)CC(=O)[O-])F)C.[Na+] | InChI=1S/C34H39FO3.Na/c1-5-34(6-2,28-12-11-25(23(3)19-28)15-18-33(38)16-7-8-17-33)29-13-14-30(24(4)20-29)26-9-10-27(22-32(36)37)31(35)21-26;/h9-15,18-21,38H,5-8,16-17,22H2,1-4H3,(H,36,37);/q;+1/p-1/b18-15+;
